US07919519B2
Methyl 1-(4-(5-benzoylbenzofuran-2-yl)-3-fluorobenzyl)azetidine-3-carboxylate
Synthesized according to Scheme B3, Step 3 and general procedure G from (4-hydroxy-3-iodophenyl)(phenyl)methanone and methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate: yellow-orange solid. MS (ESI) m/z: Calculated: 443.2; Observed: 444 (M++1).

reactant | (4-hydroxy-3-iodophenyl)(phenyl)methanone | OC1=C(C=C(C=C1)C(=O)C1=CC=CC=C1)I | C13H9IO2
reactant | methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate | C(#C)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C14H14FNO2
product | Methyl 1-(4-(5-benzoylbenzofuran-2-yl)-3-fluorobenzyl)azetidine-3-carboxylate | C(C1=CC=CC=C1)(=O)C=1C=CC2=C(C=C(O2)C2=C(C=C(CN3CC(C3)C(=O)OC)C=C2)F)C1 | C27H22FNO4
